US05952331
4-Hydroxy-6-methyl-2-(methylthio)pyrimidine (9.20 g, 59 mmol) and phosphorous oxychloride (60 mL) were combined and refluxed for 3 hours. The reaction mixture was cooled to room temperature and poured onto crushed ice. The resultant aqueous mixture was extracted with ethyl acetate; and the organic layer washed with saturated aqueous sodium bicarbonate followed by a water wash, dried over magnesium sulfate, and dried in vacuo to give 4-chloro-6-methyl-2-(methylthio)pyrimidine (8.27 g, 80%), m.p. 37-38° C.

reactant | 4-Hydroxy-6-methyl-2-(methylthio)pyrimidine | 59 mmol, 9.20 g | OC1=NC(=NC(=C1)C)SC | C6H8N2OS
reactant | phosphorous oxychloride | 60 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-6-methyl-2-(methylthio)pyrimidine | 8.27 g, 80% | ClC1=NC(=NC(=C1)C)SC | C6H7ClN2S
